US07777047B2
tert-butyl [2-(benzylthio)-3-thiomorpholinopropyl]carbamate
To a solution of tert-butyl [2-(benzylthio)-3-oxopropyl]carbamate (820 mg) in tetrahydrofuran (30 mL) was added thiomorpholine (0.42 mL), and the mixture was stirred at room temperature for 1 hr. Sodium triacetoxyborohydride (1.76 g) was added to the reaction mixture under ice-cooling, and the mixture was stirred overnight at room temperature. Saturated aqueous sodium hydrogencarbonate solution was added to the reaction mixture under ice-cooling, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over sodium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel chromatography to give the title compound (936 mg, yield 91%) as a colorless oil from a fraction eluted with ethyl acetate-hexane (3:7).

reactant | tert-butyl [2-(benzylthio)-3-oxopropyl]carbamate | 820 mg | C(C1=CC=CC=C1)SC(CNC(OC(C)(C)C)=O)C=O | C15H21NO3S
reactant | thiomorpholine | 0.42 mL | N1CCSCC1 | C4H9NS
reactant | Sodium triacetoxyborohydride | 1.76 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | tert-butyl [2-(benzylthio)-3-thiomorpholinopropyl]carbamate | 936 mg, yield 91% | C(C1=CC=CC=C1)SC(CNC(OC(C)(C)C)=O)CN1CCSCC1 | C19H30N2O2S2
